US09216173B2
To a solution of 2-[(tert-butoxycarbonyl)amino]-3-ethoxypropyl methanesulfonate (1.6 g, 5.4 mmol) in DMF (20 mL) was added sodium azide (1.10 g, 16.2 mmol) and then the reaction mixture was heated to 50° C. After 24 hours, the reaction mixture was diluted with water and the aqueous layer was extracted with ethyl acetate. The combined organic layers were concentrated under reduced pressure and the resulting residue was purified via silica chromatography to give tert-butyl (1-azido-3-ethoxypropan-2-yl)carbamate. MS ESI calc'd. for C10H21N4O3 [M+H]+ 245. found 245.

reactant | 2-[(tert-butoxycarbonyl)amino]-3-ethoxypropyl methanesulfonate | 5.4 mmol, 1.6 g | CS(=O)(=O)OCC(COCC)NC(=O)OC(C)(C)C | C11H23NO6S
reactant | sodium azide | 16.2 mmol, 1.10 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl (1-azido-3-ethoxypropan-2-yl)carbamate | N(=[N+]=[N-])CC(COCC)NC(OC(C)(C)C)=O | C10H20N4O3
